US07601722B2
In an analogous manner to general procedure V, 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.13 g, 0.33 mmol) was treated with dimethyl amine to give (2E)-4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,N-dimethylbut-2-en-1-amine (90 mg) after treatment with HCl.

reactant | 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.33 mmol, 0.13 g | BrC/C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C16H14BrFN2O2S
reactant | dimethyl amine | CNC | C2H7N
reactant | HCl | Cl | ClH
product | (2E)-4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,N-dimethylbut-2-en-1-amine | 90 mg | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)C/C=C/CN(C)C)(=O)=O | C18H20FN3O2S
